US03992535
5.0 gm (0.016 mol) of 4-hydroxy-2-methyl-2H-naphtho [2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide were reacted with 2.75 gm (0.025 mol) of 2-amino-4-methyl-thiazole in 200 ml ofxylene analogous to Example 1 and yielded 2.52 gm (40% of theory) of 4-hydroxy-2-methyl-N-(4-methyl-2-thiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide, m.p. 177° C (decomp.; from ethyl acetate).

reactant | 4-hydroxy-2-methyl-2H-naphtho [2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide | 0.016 mol, 5.0 gm | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 2-amino-4-methyl-thiazole | 0.025 mol, 2.75 gm | NC=1SC=C(N1)C | C4H6N2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-hydroxy-2-methyl-N-(4-methyl-2-thiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | 2.52 gm, 40% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC=1SC=C(N1)C | C18H15N3O4S2
